US06548671B2
Acetic acid 3-(dimethylaminomethylene-carbamoyl)-6-fluoro-6-methyl-1-{2-phenyl-1-[(quinoxaline-2-carbonyl)-amino]-ethyl}-heptyl ester
A solution of acetic acid 3-carbamoyl-6-fluoro-6-methyl-1-{2-phenyl-1-[(quinoxaline-2-carbonyl)-amino]-ethyl}-heptyl ester (522 mg, 1.03 mmol) in N,N-dimethylformamide dimethyl acetal (2 mL) was heated to 50° C. for two hours, cooled to ambient temperature and diluted with methylene chloride and water. The organic layer was washed with saturated aqueous sodium chloride, dried over sodium sulfate, filtered and concentrated to give the title compound as a white foam (580 mg, 100%).

reactant | acetic acid 3-carbamoyl-6-fluoro-6-methyl-1-{2-phenyl-1-[(quinoxaline-2-carbonyl)-amino]-ethyl}-heptyl ester | 1.03 mmol, 522 mg | C(N)(=O)C(CC(C(CC1=CC=CC=C1)NC(=O)C1=NC2=CC=CC=C2N=C1)OC(C)=O)CCC(C)(C)F | C28H33FN4O4
reactant | N,N-dimethylformamide dimethyl acetal | 2 mL | COC(N(C)C)OC | C5H13NO2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | Acetic acid 3-(dimethylaminomethylene-carbamoyl)-6-fluoro-6-methyl-1-{2-phenyl-1-[(quinoxaline-2-carbonyl)-amino]-ethyl}-heptyl ester | 580 mg, 100% | CN(C)C=NC(=O)C(CC(C(CC1=CC=CC=C1)NC(=O)C1=NC2=CC=CC=C2N=C1)OC(C)=O)CCC(C)(C)F | C31H38FN5O4
